.SUBCKT 4input0x8000_X2 A B C D VDD VSS Y
* Canonical: 0b0000000000000001
* Function: Y = !(D+C+B+A) [4 lits, SOP was 4]
* Transistors: 8
MMP3 npM0 D VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MMP4 npM1 C npM0 VDD pmos_rvt W=92.0n L=16n nfin=4
MMP5 npM2 B npM1 VDD pmos_rvt W=92.0n L=16n nfin=4
MMP6 Y A npM2 VDD pmos_rvt W=92.0n L=16n nfin=4
MMN0 Y D VSS VSS nmos_rvt W=92.0n L=16n nfin=4
MMN1 Y C VSS VSS nmos_rvt W=92.0n L=16n nfin=4
MMN2 Y B VSS VSS nmos_rvt W=92.0n L=16n nfin=4
MMN3 Y A VSS VSS nmos_rvt W=92.0n L=16n nfin=4
.ENDS
