.SUBCKT 4input0x8880_X1 A B C D VDD VSS Y
* Canonical: 0b0000000000000111
* Function: Y = !(B+A+C·D) [4 lits, SOP was 4]
* Transistors: 8
MMP2 npM0 B VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MMP3 npM1 A npM0 VDD pmos_rvt W=46.0n L=16n nfin=2
MMP4 Y C npM1 VDD pmos_rvt W=46.0n L=16n nfin=2
MMP5 Y D npM1 VDD pmos_rvt W=46.0n L=16n nfin=2
MMN0 Y B VSS VSS nmos_rvt W=46.0n L=16n nfin=2
MMN1 Y A VSS VSS nmos_rvt W=46.0n L=16n nfin=2
MMN3 Y C nsM2 VSS nmos_rvt W=46.0n L=16n nfin=2
MMN4 nsM2 D VSS VSS nmos_rvt W=46.0n L=16n nfin=2
.ENDS
