* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : 4input0x8_X1                            *
* Netlisted  : Sat May 23 00:23:03 2026                     *
* Pegasus Version: 21.31-s008 Thu Jan 13 15:55:10 PST 2022  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: 4input0x8_X1                               *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt 4input0x8_X1 A B C D VDD VSS Y
** N=11 EP=7 FDC=10
M0 3 A VDD VDD pmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=148 $Y=340
M1 VDD B 3 VDD pmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=328 $Y=340
M2 10 3 VDD VDD pmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=508 $Y=340
M3 9 C 10 VDD pmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=688 $Y=340
M4 Y D 9 VDD pmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=868 $Y=340
M5 11 A 3 VSS nmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=148 $Y=52
M6 VSS B 11 VSS nmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=328 $Y=52
M7 Y 3 VSS VSS nmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=508 $Y=52
M8 VSS C Y VSS nmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=688 $Y=52
M9 Y D VSS VSS nmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=868 $Y=52
.ends 4input0x8_X1
