.SUBCKT 3input0x2_X1_DH_N A1 A2 A3 VDD VSS Y
MM5 VDD A3 oai21 VDD pmos_rvt w=46.00n l=16n nfin=2
MM3 oai21 A1 n1 VDD pmos_rvt w=46.00n l=16n nfin=2
MM4 VDD A2 n1 VDD pmos_rvt w=46.00n l=16n nfin=2
MM2 oai21 A3 n2 VSS nmos_rvt w=46.00n l=16n nfin=2
MM0 VSS A1 n2 VSS nmos_rvt w=46.00n l=16n nfin=2
MM1 VSS A2 n2 VSS nmos_rvt w=46.00n l=16n nfin=2
MM11 Y oai21 VSS VSS nmos_rvt w=46.00n l=16n nfin=2
MM10 n4 A2 Y VSS nmos_rvt w=46.00n l=16n nfin=2
MM9 n4 A1 VSS VSS nmos_rvt w=46.00n l=16n nfin=2
MM8 n3 oai21 Y VDD pmos_rvt w=46.00n l=16n nfin=2
MM7 n3 A1 VDD VDD pmos_rvt w=46.00n l=16n nfin=2
MM6 n3 A2 VDD VDD pmos_rvt w=46.00n l=16n nfin=2
.ENDS
