.SUBCKT 3input0x31_X1_DH_N A1 A2 A3 VDD VSS Y
MM11 VDD A2 oai21 VDD pmos_rvt w=46.00n l=16n nfin=2
MM10 oai21 A1 n3 VDD pmos_rvt w=46.00n l=16n nfin=2
MM3 VDD A3 n3 VDD pmos_rvt w=46.00n l=16n nfin=2
MM2 oai21 A2 n2 VSS nmos_rvt w=46.00n l=16n nfin=2
MM1 VSS A3 n2 VSS nmos_rvt w=46.00n l=16n nfin=2
MM0 VSS A1 n2 VSS nmos_rvt w=46.00n l=16n nfin=2
MM9 VDD oai21 Y VDD pmos_rvt w=46.00n l=16n nfin=2
MM8 Y A2 n4 VDD pmos_rvt w=46.00n l=16n nfin=2
MM7 VDD A3 n4 VDD pmos_rvt w=46.00n l=16n nfin=2
MM6 Y oai21 n5 VSS nmos_rvt w=46.00n l=16n nfin=2
MM5 VSS A2 n5 VSS nmos_rvt w=46.00n l=16n nfin=2
MM4 VSS A3 n5 VSS nmos_rvt w=46.00n l=16n nfin=2
.ENDS
